US07858784B2
Synthesis of Ethyl 3-(methylsulfonyloxy)benzoate
To a stirred solution of ethyl 3-hydroxybenzoate (3.32 g, 20 mmol) in dichloromethane (20 mL) cooled to 0° C. was added triethylamine (4.17 mL, 30 mmol). To this was added mesyl chloride (1.94 mL, 25 mmol) dropwise over 15 min. The reaction was stirred at 0° C. for 15 min then quenched with water and the phases separated. The aqueous layer was extracted with dichloromethane and the combined organics were dried over MgSO4 and concentrated in vacuo. The crude material was purified via the Biotage SP4 (silica-packed 25+M; 0-50% EtOAc/hexanes) to provide the title compound as a white solid (2.698 g, 55%). 1H NMR (300 MHz, CDCl3) δ: 7.98 (m, 1H), 7.89 (s, 1H), 7.47 (m, 2H), 4.35 (q, J=7.0 Hz, 2H), 3.16 (s, 3H), 1.37 (t, J=7.0 Hz, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 165.3, 149.3, 132.9, 130.3, 128.7, 126.9, 123.2, 61.8, 37.8, 14.5 ppm. IR (neat, cm−1): 1721, 1384, 1369, 1268, 1194, 1168, 1098, 936, 840, 798.

reactant | ethyl 3-hydroxybenzoate | 20 mmol, 3.32 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | triethylamine | 30 mmol, 4.17 mL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 25 mmol, 1.94 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Ethyl 3-(methylsulfonyloxy)benzoate | 2.698 g, 55% | CS(=O)(=O)OC=1C=C(C(=O)OCC)C=CC1 | C10H12O5S
